US04070357
A solution of 184 ml. of phosphorus oxychloride in 180 ml. of chloroform is added dropwise, with stirring, to a solution of 235 g. of 1-(2-hydroxyethyl)-3-hydroxy-1,2,3,4-tetrahydroquinoline (an oil, hydrobromide, m.p. 167°), obtainable by dropwise addition of 2-anilinoethanol to a solution of epichlorohydrin in isopropanol, boiling for 4 hours, evaporating and heating the residue at 160° for 3 hours in diethylaniline/cyclohexanol, in 355 ml. of chloroform. The mixture is boiled for 2 hours more and cooled. Excess phosphorus oxychloride is decomposed by adding 600 ml. of water dropwise. The phases are separated and the aqueous phase is extracted several times with chloroform, washed with water until neutral and evaporated to give 1-(2-chloroethyl)-2-chloromethylindoline hydrochloride, an oil, which is converted directly to the free base, b.p. 132°-135°/0.05 mm.

reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(2-hydroxyethyl)-3-hydroxy-1,2,3,4-tetrahydroquinoline | OCCN1CC(CC2=CC=CC=C12)O | C11H15NO2
reactant | hydrobromide | Br | BrH
reactant | 2-anilinoethanol | N(C1=CC=CC=C1)CCO | C8H11NO
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-chloroethyl)-2-chloromethylindoline hydrochloride | Cl.ClCCN1C(CC2=CC=CC=C12)CCl | InChI=1S/C11H13Cl2N.ClH/c12-5-6-14-10(8-13)7-9-3-1-2-4-11(9)14;/h1-4,10H,5-8H2;1H
